* C:\Users\jcasa\Documents\projects\UFHVSW\ltspice\halfbridge_pn.asc
V3 HV 0 450
V4 LV 0 -200
D9 HI g1 1N4148
V1 V+ 0 5
V2 HV HI PULSE(0 5 .35E-6 15E-9 15E-9 .15E-6 .5E-6)
R5 g1 HV 100k
R1 g1 HI 10
C1 out 0 10e-12
M2 N001 g1 HV HV vp0550
D2 HI g1 1N4148
V5 N001 HI PULSE(0 5 .35E-6 15E-9 15E-9 .15E-6 .5E-6)
R3 g1 N001 100k
R4 g1 HI 10
M1 out g1 N001 N001 vp0550
R9 N001 HV 10meg
R10 out N001 10meg
R13 out P001 10meg
R14 P001 0 10meg
V10 LO LV PULSE(0 5 0E-6 15E-9 15E-9 .35E-6 .5E-6)
R21 g2 LV 100k
R22 g2 LO 10
D6 g2 LO 1N4148
M7 N002 g2 LV LV vn0550
V11 LO N002 PULSE(0 5 0 15E-9 15E-9 .35E-6 .5E-6)
R23 g2 N002 100k
R24 g2 LO 10
D7 g2 LO 1N4148
M8 out g2 N002 N002 vn0550
R25 out N002 10meg
R26 N002 LV 10meg
.model D D
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.mos
.tran 20E-6
.include supertex.txt
.backanno
.end
